US07666878B2
1M Aqueous LiOH (0.52 mL) is added at 0° C. to a stirring solution of [1-(3,4-difluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (200 mg, 0.526 mmol) in 1:1 dioxane/water (4 mL). The reaction mixture is stirred at 0° C. for 15 minutes, then allowed to warm to room temperature. After 2.5 hours, the reaction mixture is neutralised to pH 7 with 1M HCl and the solvent is removed under reduced pressure. The residue is loaded on a pre-packed Isolute™ silica column and eluted using a gradient eluent from 100% CH2Cl2 to 5% methanol in CH2Cl2 to afford [1-(3,4-difluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid; MH+=367.

reactant | LiOH | 1M, 0.52 mL | [Li+].[OH-]
reactant | [1-(3,4-difluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.526 mmol, 200 mg | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)F)F)C)=O | C17H14F2N2O4S
reactant | HCl | 1M | Cl | ClH
solvent | dioxane water | 4 mL | O1CCOCC1.O
product | [1-(3,4-difluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | FC=1C=C(C=CC1F)S(=O)(=O)N1C(=C(C=2C1=NC=CC2)CC(=O)O)C | C16H12F2N2O4S
